US07105547B2
Step 2. Preparation of 4-[5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2,6-difluoro-benzoic Acid Tert-butyl Ester.
1.0 M t-BuOLi in THF (22.7 mL, 22.71 mmol) is added dropwise with stirring over ca. 5 min to a solution of 2,6-difluoro-4-isopropoxycarbonylamino-benzoic acid tert-butyl ester (2.39 g, 7.57 mmol) in DMF (4.84 mL) and MeOH (0.619 mL, 15.29 mmol) at 0° C. 1-(S)-2-Acetylamino-1-(chloromethyl)ethyl acetate (2.93 g, 15.14 mmol) is added on one portion to the reaction mixture at 0° C. The mixture is allowed to warm up to r.t. and then stirred for another 16 h. Satd. aq. NH4Cl (25 mL) is added, followed by addition of water (25 mL), brine (25 mL) and DCM (50 mL). The organic layer is separated, and aqueous phase is extracted with excess DCM (4×25 mL). The combined organic phase is dried over Na2SO4. The solvent is removed under vacuum. The crude material is purified by silica gel column chromatography (50–100% gradient of EtOAc—hexane) to afford the title compund. 1H NMR (300 MHz, CDCl3) δ 2.05 (s, 1H), 3.62–3.67 (m, 2H), 3.72–3.77 (m, 1H), 4.00(t, J=10.2 Hz, 1H) 4.74–4.83 (m, 1H), 6.08–6.13 (Br t, 1H) 7.14 (d, J=12.6 Hz, 2H).

reactant | t-BuOLi | 1.0 M | C(C)(C)(C)O[Li]
reactant | THF | 22.71 mmol, 22.7 mL | C1CCOC1 | C4H8O
reactant | 2,6-difluoro-4-isopropoxycarbonylamino-benzoic acid tert-butyl ester | 7.57 mmol, 2.39 g | C(C)(C)(C)OC(C1=C(C=C(C=C1F)NC(=O)OC(C)C)F)=O | C15H19F2NO4
reactant | MeOH | 15.29 mmol, 0.619 mL | CO | CH4O
reactant | NH4Cl | 25 mL | [NH4+].[Cl-]
solvent | DMF | 4.84 mL | CN(C)C=O | C3H7NO
solvent | brine | 25 mL | [Cl-].[Na+].O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 25 mL | O | H2O
product | 4-[5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2,6-difluoro-benzoic Acid Tert-butyl Ester | C(C)(C)(C)OC(C1=C(C=C(C=C1F)N1C(OC(C1)CNC(C)=O)=O)F)=O | C17H20F2N2O5
